US08080552B2
1-[3-(Cyano-methyl-methyl)-phenyl]-3-{4-[2-(3-hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-urea
222 mg (1.37 mmol) 1,1′-Carbonyl-diimidazol (CDI) were given to a solution of 182 mg (1.24 mmol) 2-(3-amino-phenyl)-propionitrile in 4.0 ml dichloro-methane and stirred for 12 h. A solution of 324 mg (1.24 mmol) 3-[4-(4-Amino-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol in 6 ml dichloromethane was added within 30 min. and the mixture stirred for 12 h at r.t. The reaction mixture was evaporated and the residue was purified by chromatography on silica gel (dichloromethane/ethanol 96:4). The obtained material was leached with ether, filtered and dried. Yield 200 mg (37%) of the title compound.

reactant | 1,1′-Carbonyl-diimidazol | 1.37 mmol, 222 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(3-amino-phenyl)-propionitrile | 1.24 mmol, 182 mg | NC=1C=C(C=CC1)C(C#N)C | C9H10N2
reactant | 3-[4-(4-Amino-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol | 1.24 mmol, 324 mg | NC1=CC=C(OC2=NC(=NC=C2)NCCCO)C=C1 | C13H16N4O2
solvent | dichloro-methane | 4.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 1-[3-(Cyano-methyl-methyl)-phenyl]-3-{4-[2-(3-hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-urea | C(#N)C(C=1C=C(C=CC1)NC(=O)NC1=CC=C(C=C1)OC1=NC(=NC=C1)NCCCO)C | C23H24N6O3
